US09126969B2
11.68 mL of a 1M solution of lithium aluminum hydride in ether are added to 10 mL of tetrahydrofuran, and then 1 g of 4-piperidin-1-ylbutyric acid hydrochloride (synthesized according to a method described in the literature) is added. The medium is brought to boiling for approximately 10 minutes. After a return to ambient temperature and cooling to 0° C., a mixture of 1 mL of distilled water-30 mL of tetrahydrofuran is added dropwise. A large amount of gas is given off and strong exothermia is observed. After a return to ambient temperature, the medium is evaporated to dryness under reduced pressure in a rotary evaporator. The reaction crude is triturated in 150 mL of ethyl acetate and filtered, and the filtrate is washed with 2×20 mL of distilled water. The organic phase is dried over magnesium sulfate, filtered and then concentrated under vacuum in a rotary evaporator. 646 mg of 4-piperidin-1-ylbutan-1-ol are isolated in the form of a colorless oil. 1H NMR (300 MHz, DMSO-d6, δ in ppm): from 1.30 to 1.53 (m, 10H); 2.20 (t, J=6.5 Hz, 2H); 2.28 (m, 4H); 3.37 (broad t, J=6.5 Hz, 2H); 4.57 (broad s, 1H).

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | 4-piperidin-1-ylbutyric acid hydrochloride | 1 g | Cl.N1(CCCCC1)CCCC(=O)O
reactant | water | 1 mL | O | H2O
solvent | ether | CCOCC | C4H10O
product | 4-piperidin-1-ylbutan-1-ol | 646 mg | N1(CCCCC1)CCCCO | C9H19NO
